US09376443B2
6-(4-Hydroxytetrahydropyran-4-yl)pyridine-2-methanamine
6-(4-Hydroxytetrahydropyran-4-yl)pyridine-2-carbonitrile (ca. 18.9 mmol) was dissolved in anhydrous THF (80 mL) and a 1 M solution of BH3 in THF (95 mL, 95 mmol) added. The solution was stirred at ambient temperature for 2.5 hours, then quenched with methanol. The solution was adjusted to pH 1 by addition of 2 N hydrochloric acid solution and then neutralised to pH 5 with a 5 N solution of sodium hydroxide. Extraction with dichloromethane was followed by addition of further 2 N sodium hydroxide to the aqueous phase until the pH reached 14. This phase was twice extracted with dichloromethane and these combined extracts were evaporated to give a yellow gum. The aqueous extracts were acidified with 2 N hydrochloric acid and concentrated to dryness to yield a white residue. Three triturations of this residue with methanol and concentration of the methanolic liquors yielded a second crop of yellow gum. Drying in vacuo gave the title compound (2.51 g, 64%) as a foamy yellow solid; NMR δH (400 MHz, DMSO) 8.53 (1H, br s), 7.85 (1H, t, J 7.8 Hz), 7.62 (1H, d, J 7.8 Hz), 7.34 (1H, d, J 7.5 Hz), 5.75 (1H, s), 3.72 (4H, m), 3.16 (2H, s), 2.29 (2H, m), 1.42 (1H, d, J 12.3 Hz); LC-MS Retention time 0.43 min, (M+H)+ 209.

reactant | 6-(4-Hydroxytetrahydropyran-4-yl)pyridine-2-carbonitrile | ca. 18.9 mmol | OC1(CCOCC1)C1=CC=CC(=N1)C#N | C11H12N2O2
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | methanol | CO | CH4O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 95 mmol, 95 mL | C1CCOC1 | C4H8O
product | 6-(4-Hydroxytetrahydropyran-4-yl)pyridine-2-methanamine | 2.51 g, 64% | OC1(CCOCC1)C1=CC=CC(=N1)CN | C11H16N2O2
